US09382188B2
E) 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanal
To a solution of 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propan-1-ol (357 mg) and triethylamine (0.68 mL) in DMSO (5.0 mL) was added sulfur trioxide pyridine complex (390 mg), and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added 0.50N hydrochloric acid, and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (167 mg) as a colorless oil.

reactant | 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propan-1-ol | 357 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)CCCO)CC(C)(C)C | C28H33FO3
reactant | triethylamine | 0.68 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 0.50N | Cl | ClH
solvent | DMSO | 5.0 mL | CS(=O)C | C2H6OS
product | 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)propanal | 167 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)CCC=O)CC(C)(C)C | C28H31FO3
